US04888336
Methyl androst-4-ene-3-one-17β-carboxylate (10 g, 30.3 mmol, prepared according to Rasmusson, et al., J. Med. Chem. 27 1960 (1984)) and chloranil (8.95 g, 36.4 mmol) in 700 ml t-butanol was heated at reflux for 3.5 hours then cooled and filtered. The filtrate was concentrated and the residue taken up in 700 ml chloroform and washed successively with 4×150 ml water, 3×150 ml saturated sodium bicarbonate, 3×150 ml 5% sodium hydroxide, 3×150 ml brine, dried over sodium sulfate, and concentrated to yield methyl androst-4,6-diene-3-one-17β-carboxylate as a dark foam (7.0 g, 70%).

reactant | Methyl androst-4-ene-3-one-17β-carboxylate | 30.3 mmol, 10 g | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC | C21H30O3
reactant | chloranil | 36.4 mmol, 8.95 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | t-butanol | 700 ml | C(C)(C)(C)O | C4H10O
product | methyl androst-4,6-diene-3-one-17β-carboxylate | C[C@@]12[C@H](CC[C@H]1[C@@H]1C=CC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC | C21H28O3
